Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:7]=[C:8]([H:9])[H:10].[H:1][C:2]([H:3])[O:4][C:5][H:6]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])=[C:7]=[C:8]([H:9])[H:10],-5.563496730700001
[H:1][C:2]([H:3])[C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13][C:14]([H:15])([H:16])[H:17]>>[C:6]([H:7])([H:8])[H:9].[H:1][C:2]([H:3])=[C:4]([H:5])[C:10]([H:11])([H:12])[C:13][C:14]([H:15])([H:16])[H:17],1.46968147247
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7][O:8][C:9]([H:10])([H:11])[H:12]>>[C:9]([H:10])([H:11])[H:12].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]=[O:8],0.98257277832
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[H:7]>>[C:4]([H:5])([H:6])[H:7].[O:1]=[C:2][H:3],3.84106009446
[H:13].[H:1][O:2][C:3]/[C:4]([H:5])=[C:6]/[C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[H:1][O:2][C:3]/[C:4]([H:5])=[C:6]/[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-4.5830749309
[C:5]([O:6][H:7])[C:8]([H:9])([H:10])[H:11].[O:1][C:2]#[C:3][H:4]>>[O:1]=[C:2]([C:3][H:4])[C:5]([O:6][H:7])[C:8]([H:9])([H:10])[H:11],-1.07661853265
[C:5]([H:6])#[C:7][H:8].[H:1][C:2]([C:3]([H:4])[C:11]([H:12])([H:13])[O:14][H:15])([H:9])[H:10]>>[H:1][C:2]=[C:3]([H:4])[C@@:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[O:14][H:15],-1.33421845156
[C:1]#[C:2][O:3][H:4].[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12]>>[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12],-2.93743222714
[H:1][O:2][C:3][C@@:4]([H:5])([C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:10].[H:1][O:2][C:3][C@:4]([H:5])([C:6]([H:7])=[C:8][H:9])[C:11]([H:12])([H:13])[H:14],4.97274747483
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][O:9][C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][O:9],3.1258225270599995
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14]>>[H:6].[O:1]=[C:2]([H:3])[C:4]([H:5])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14],4.0634168777
[C:1]#[C:2][C:3]([C:4](=[O:5])[H:6])[C:8]([H:9])([H:10])[H:11].[H:7]>>[C:1]#[C:2][C:3]([C:4]([O:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11],-1.19983634089
[H:1][O:2][C:3](=[C:4]=[C:6]([H:7])[H:8])[C:9]([H:10])[C:11]([H:12])([H:13])[H:14].[H:5]>>[H:1][O:2]/[C:3]([C:4]([H:5])=[C:6]([H:7])[H:8])=[C:9](/[H:10])[C:11]([H:12])([H:13])[H:14],-4.683514505980001
[O:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[H:10]>>[H:6].[O:1][O:2]/[C:3]([H:4])=[C:5]/[C:7]([H:8])([H:9])[H:10],4.916477690480001
[H:1][O:2]/[C:3](=[C:4]\[O:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:6]([H:7])([H:8])[H:9].[H:1][O:2][C:3](=[C:4]=[O:5])[C:10]([H:11])([H:12])[H:13],0.36525919316
[H:5].[O:1]=[C:2]([O:3][C:4]=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[O:1]=[C:2]([O:3][C:4]([H:5])=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-5.01750135934
[H:1][O:2][C:3]([H:4])[O:5][C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3][O:5][C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:4],2.61176696566
[H:1][C:2]#[C:3][C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:4]([C:5]([H:6])([H:7])[H:8])([H:10])[H:11].[H:1][C:2][C:3]#[C:9][C:12]([H:13])([H:14])[H:15],4.38178982541
[H:14].[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11]#[C:12][H:13]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11]=[C:12]([H:13])[H:14],-2.3828413288
[H:1][C:2](=[C:3]([H:4])[H:5])[C@:9]([C:6]([H:7])[H:8])([H:10])[O:11][C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]1[C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C@:9]1([H:10])[O:11][C:12]([H:13])([H:14])[H:15],-0.1044552824599999
[C:1]#[C:2][C:3]([H:4])[O:5][C:6]([H:7])=[C:8]([H:9])[H:10]>>[C:1]#[C:2].[C:3]([H:4])[O:5][C:6]([H:7])=[C:8]([H:9])[H:10],7.00748583602
[C:4](=[C:5]([H:6])[C:7]([H:8])([H:9])[H:10])=[C:11]([H:12])[H:13].[H:1][C:2]=[O:3]>>[H:1][C:2][O:3][C:4]([C:5]([H:6])[C:7]([H:8])([H:9])[H:10])=[C:11]([H:12])[H:13],0.8803364402399999
[H:1][C:2]([H:3])[C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13][C:14]([H:15])([H:16])[H:17]>>[H:1][C:2]([H:3])=[C:4]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13][C:14]([H:15])([H:16])[H:17].[H:5],1.60978459581
[H:1][C:2]([H:3])[C@:4]([H:5])([C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[H:17].[H:1][C:2]([H:3])[C:4]([H:5])([C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])[H:16],4.65529415743
[H:1][C:2]#[C:3][H:4]>>[C:2]#[C:3][H:4].[H:1],5.9751350724000005
[H:5].[O:1]=[C:2]=[C:3]([H:4])[C:6]#[C:7][C:8]([H:9])([H:10])[H:11]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]#[C:7][C:8]([H:9])([H:10])[H:11],-1.8955717558200005
[C:4][C:5]([H:6])([H:7])[H:8].[H:1][O:2][C:3][C:9]([H:10])([H:11])[O:12][H:13]>>[H:1][O:2]/[C:3](=[C:4]\[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13],-5.67073399799
